* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\tb_oscillator.asc
XX1 0 N001 N002 vout oscillator
V1 N001 0 PULSE(0 1.8 0 1n)
V2 N002 0 PULSE(0 0.5 0 1u)

* block symbol definitions
.subckt oscillator GNDA VDDA vref VOUT
M1 N003 N002 VDDA VDDA CMOSP l=360n w=2.5u
M2 N002 N002 VDDA VDDA CMOSP l=360n w=2.5u
M3 N003 vref N006 N006 CMOSN l=360n w=500n
M4 N002 0v5 N006 N006 CMOSN l=360n w=500n
M5 N006 vbn0 GNDA GNDA CMOSN l=720n w=2u
M6 vbn0 vbn0 GNDA GNDA CMOSP l=720n w=2u
M7 vbn0 N001 VDDA VDDA CMOSP l=360n w=2.5u
Q1 N008 N009 GNDA 0 2N3904
R1 N009 GNDA 1Meg
Q2 N001 N008 N009 0 2N3904
M8 N001 N001 VDDA VDDA CMOSP l=360n w=2.5u
R2 VDDA N008 1Meg
M9 1v5 N003 VDDA VDDA CMOSP l=180n w=1u
M10 VOUT N003 VDDA VDDA CMOSP l=180n w=1u
C1 VOUT GNDA 1p
R3 1v5 0v5 1Meg
R4 0v5 GNDA 500k
S1 GNDA VOUT N005 0 Discharge
A2 VOUT 1v5 0 0 0 0 N004 0 SCHMITT Vhigh=1.8, Vlow=0, Vt=0
A1 0v5 VOUT 0 0 0 0 N007 0 SCHMITT Vhigh=1.8, Vlow=0, Vt=0
A3 N004 N007 0 0 0 0 N005 0 SRFLOP Vhigh=1.8, Vlow=0
R5 VOUT GNDA 1Meg
.include tsmc018.lib
.model Discharge sw(Ron=1m)
.ends oscillator

.model NPN NPN
.model PNP PNP
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10u
.backanno
.end
